US08232300B2
(1) 2,3,3a,4,5,6-Hexahydro-1H-phenalene
A solution of 2,3,3a,4,5,6-hexahydro-phenalene-1-one (2.00 g) in anhydrous tetrahydrofuran (70 ml) was cooled to 0° C., and slowly added with sodium borohydride (1.62 g) and aluminum chloride (2.85 g). The reaction mixture was refluxed by heating for 3 hours, then cooled to 0° C., and diluted with ethyl acetate. The reaction mixture was slowly added with ice until foaming ceased, and then the mixture was made to be at room temperature and stirred overnight. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (developing solvent: n-hexane) to obtain the title compound (1.47 g, yield: 80%).

reactant | 2,3,3a,4,5,6-hexahydro-phenalene-1-one | 2.00 g | C1(CCC2CCCC3=CC=CC1=C23)=O | C13H14O
reactant | sodium borohydride | 1.62 g | [BH4-].[Na+]
reactant | aluminum chloride | 2.85 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3,3a,4,5,6-Hexahydro-1H-phenalene | 1.47 g, yield: 80% | C1CCC2CCCC3=CC=CC1=C23 | C13H16
